US05700819
To a solution of monomethyl 1,3-phenylene diacetate (531 mg, 2.6 mmol) in benzene (5 ml) was gradually added thionyl chloride (607 mg, 5.2 mmol). The mixture was heated to reflux for 2 hours. An excess of thionyl chloride was then distilled off in vacuo leaving 3-methoxycarbonylmethylphenylacetyl chloride. 2-Amino-3,4,6-trifluorothiophenol (507 mg, 2.8 mmol) was dissolved in N-methylpyrrolidone (NMP, 5 ml) under a nitrogen stream. To the resultant solution was gradually added the product 3-methoxycarbonylmethylphenylacetyl chloride thus obtained and the mixture was stirred at 100° C. for 2 hours. After cooling, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried and then evaporated to yield a residue, which was purified on a silica gel column to give methyl 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]phenylacetate (267 mg, 27%) as an oil.

reactant | 2-Amino-3,4,6-trifluorothiophenol | 2.8 mmol, 507 mg | NC1=C(C(=CC(=C1F)F)F)S | C6H4F3NS
reactant | 3-methoxycarbonylmethylphenylacetyl chloride | COC(=O)CC=1C=C(C=CC1)CC(=O)Cl | C11H11ClO3
solvent | N-methylpyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | methyl 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]phenylacetate | 267 mg, 27% | FC1=C(C=C(C2=C1N=C(S2)CC=2C=C(C=CC2)CC(=O)OC)F)F | C17H12F3NO2S
